US06884868B1
To a solution of 4-[3-(methanesulfonyloxy)propyloxy]-N-t-butyloxycarbonylpiperidine (3.76 g) in methanol (20 ml) was added 28% sodium methoxide methanol solution (22.7 ml), and the mixture was stirred under refluxing for 1.5 hours. The reaction mixture was evaporated in vacuo and dissolved in ethyl acetate (200 ml). The solution was washed twice with saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate and evaporated in vacuo. The resulting residue was chromatographed on silica gel (200 ml) eluting with a mixture of n-hexane and ethyl acetate (2:1 v/v). The fractions containing the object compound were collected and evaporated under reduced pressure to give 4-(3-methoxypropyloxy)-N-t-butyloxycarbonylpiperidine (2.66 g).

reactant | 4-[3-(methanesulfonyloxy)propyloxy]-N-t-butyloxycarbonylpiperidine | 3.76 g | CS(=O)(=O)OCCCOC1CCN(CC1)C(=O)OC(C)(C)C | C14H27NO6S
reactant | sodium methoxide methanol | 22.7 ml | CO.C[O-].[Na+]
solvent | methanol | 20 ml | CO | CH4O
product | 4-(3-methoxypropyloxy)-N-t-butyloxycarbonylpiperidine | 2.66 g | COCCCOC1CCN(CC1)C(=O)OC(C)(C)C | C14H27NO4
